Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Motor vehicle crash with head strike
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old female s/p MVC. History of depression, remote CVA, 
transferred from outside hospital status post high-speed 
rollover, unrestrained passenger. She had +LOC and struck her 
head. She was self extricated at the site, and taken to ___ 
___ where she received and scan and left knee plain 
films. The only traumatic injuries on this were a very small 
intraparenchymal hemorrhage. She is only complaining of headache 
and knee pain. 
 
Past Medical History:
PMH:
Stroke at 26 d/t ?cerebral aneurysm
Anxiety
Fibromyalgia

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
Admission Physical Exam:
Gen: WD/WN, comfortable, NAD.
HEENT: wearing glasses. Forehead laceration. No active bleeding. 

Pupils: PERRLA
Neck: Supple.
Lungs: CTA bilaterally.
Cardiac: RRR. S1/S2.
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Recall: ___ objects at 5 minutes.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Discharge Physical Exam:
Gen: resting in bed, easily opens eye to voice. Mother at 
bedside. 
HEENT: forehead abrassion, scabbed. mucus membranes moist. 
PERRL. EOMI bilaterally. neck supple, trachea midline. 
Lungs: CTA bilaterally
CV: RRR.
Abd: soft, non-tender, non-distended. active BS x4 quadrants.
Ext: warm and dry. 2+ ___ pulses. tender to palpation on left 
knee with abrasion. 
Neuro: A&Ox3. moves all extremities equal and strong. no drift. 
speech is clear and fluent. 
 
Pertinent Results:
___ 05:25AM BLOOD WBC-10.2* RBC-4.01 Hgb-12.1 Hct-36.1 
MCV-90 MCH-30.2 MCHC-33.5 RDW-12.1 RDWSD-39.9 Plt ___
___ 05:25AM BLOOD ___ PTT-28.7 ___
___ 05:25AM BLOOD Lipase-17
___ 05:25AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:37AM BLOOD Glucose-88 Lactate-2.2* Na-143 K-3.7 
Cl-110* calHCO3-21

___ OSH CT Head:  miniml L IPH lateral to the caudate 
nucleus. No associated
#s. No edema or mass effect.

___ CT Left lower extremity: No acute fracture or 
dislocation.  If pain persists, MRI recommended.

 
Brief Hospital Course:
Ms. ___ is a ___ yo F admitted to the Acute Care Trauma 
Service at ___ on ___ from an outside hospital after a 
MVC for further management of a small Intraparenchymal 
hemorrhage. Neurosurgery was consulted and recommended no 
surgical intervention and no need for seizure prophylaxis. She 
had a CT scan of her left lower extremity for knee and leg pain 
which was negative for fracture or dislocation. She was admitted 
for frequent neurological checks. 

Cognitive neurology was consulted and recommend further 
outpatient follow up for post-concussion therapy.  

She was discharged to home on HD 2. At the time of discharge, 
the patient was doing well, neurologically intact, afebrile and 
hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
Ambien 10 mg QHS
Clonazepam 1 mg Daily
Aspirin 325mg daily 

 
Discharge Medications:
1. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*40 Tablet Refills:*0
2. Aspirin 325 mg PO DAILY 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN severe pain 

RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
4. Senna 8.6 mg PO BID:PRN constipation 
5. Docusate Sodium 100 mg PO BID 
hold for diarrhea. 
6. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 
7. ClonazePAM 1 mg PO DAILY:PRN anxiety 
8. Meclizine 25 mg PO BID:PRN vertigo/dizziness 
do not drink or drive while taking the medication 
RX *meclizine 25 mg 1 tablet(s) by mouth twice a day Disp #*20 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Intraparenchymal hemorrhage
Concussion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ on ___ after a motor vehicle 
accident. You had a CT scan of your head that showed a small 
intraparenchymal hemorrhage and a concussion. You were closely 
watched for worsening symptoms. You also had some left knee and 
leg pain. You had a CT scan of the leg and it showed no acute 
fracture. 

Your neurologic exam has been stable, your pain is better 
controlled, and you are now ready to be discharged to home to 
continue your recovery.

Please note the following discharge instructions:

Return to the Emergency Department or see your own doctor right 
away if any problems develop, including the following:
• Persistent nausea or vomiting.
• Increasing confusion, drowsiness or any change in alertness.
• Loss of memory.
• Increased dizziness or fainting.
• Trouble walking or staggering.
• Worsening of headache or headache feels different.
• Trouble speaking or slurred speech.
• Convulsions or seizures. These are twitching or jerking 
movements of the eyes, arms, legs or body.
• A change in the size of one pupil (black part of your eye) as 
compared to the other eye.
• Weakness or numbness of an arm or leg.
• Stiff neck or fever.
• Blurry vision, double vision or other problems with your 
eyesight.
• Bleeding or clear liquid drainage from your ears or nose.
• Very sleepy (more than expected) or hard to wake up.
• Unusual sounds in the ear.
• Any new or increased symptoms

 
Followup Instructions:
___